* Created by KLayout
*** My special header ***

* cell INV_X2
* pin A
* pin Y
* pin gnd
* pin vdd
.SUBCKT INV_X2 A Y gnd vdd
* device instance $1 r0 *1 4,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=16.2u AS=45.36p AD=45.36p PS=38u PD=38u
* device instance $2 r0 *1 5.4,9.8 NMOS
XM$2 gnd A Y gnd NMOS L=1u W=6.6u AS=18.48p AD=18.48p PS=18.8u PD=18.8u
.ENDS INV_X2
