* TR-1um REGBUF — KLayout 抽出 (scripts/klayout_extract.py)

* cell REGBUF
* pin D
* pin DD
* pin Q
* pin QQ
* pin gnd
* pin vdd
.SUBCKT REGBUF D DD Q QQ gnd vdd
* device instance $1 r0 *1 29.8,47.8 PMOS
XM$1 vdd \$6 DD vdd PMOS L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $2 r0 *1 33.8,47.8 PMOS
XM$2 \$6 D vdd vdd PMOS L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $3 r0 *1 4,47.8 PMOS
XM$3 vdd Q \$3 vdd PMOS L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $4 r0 *1 8,47.8 PMOS
XM$4 QQ \$3 vdd vdd PMOS L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $5 r0 *1 28.4,8.2 NMOS
XM$5 gnd \$6 DD gnd NMOS L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $6 r0 *1 32.4,8.2 NMOS
XM$6 \$6 D gnd gnd NMOS L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
* device instance $7 r0 *1 5.4,8.2 NMOS
XM$7 gnd Q \$3 gnd NMOS L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $8 r0 *1 9.4,8.2 NMOS
XM$8 QQ \$3 gnd gnd NMOS L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
.ENDS REGBUF
