* Created by KLayout
*** My special header ***

* cell RSLATCH
* pin Q
* pin QB
* pin R
* pin S
* pin gnd
* pin vdd
.SUBCKT RSLATCH Q QB R S gnd vdd
* device instance $1 r0 *1 10,45.8 PMOS
XM$1 Q QB \$7 vdd PMOS L=1u W=10.2u AS=28.56p AD=6.12p PS=26u PD=11.4u
* device instance $2 r0 *1 12.2,45.8 PMOS
XM$2 \$7 R vdd vdd PMOS L=1u W=10.2u AS=6.12p AD=15.3p PS=11.4u PD=13.2u
* device instance $3 r0 *1 16.2,45.8 PMOS
XM$3 vdd S \$8 vdd PMOS L=1u W=10.2u AS=15.3p AD=6.12p PS=13.2u PD=11.4u
* device instance $4 r0 *1 18.4,45.8 PMOS
XM$4 \$8 Q QB vdd PMOS L=1u W=10.2u AS=6.12p AD=28.56p PS=11.4u PD=26u
* device instance $5 r0 *1 8.2,17.9 NMOS
XM$5 gnd QB Q gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $6 r0 *1 12.2,17.9 NMOS
XM$6 Q R gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $7 r0 *1 16.2,17.9 NMOS
XM$7 gnd S QB gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $8 r0 *1 20.2,17.9 NMOS
XM$8 QB Q gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS RSLATCH
